US07781598B2
Aqueous sodium hydroxide (1 M, 25 ml) was added to a solution of (4-nitro-2-methyl-1H-indol-1-yl)acetic acid, ethyl ester (5.0 g, 18.9 mmol) in ethanol (25 ml) and the mixture warmed to 40° C. After stirring for 70 mins at this temperature, the mixture was allowed to cool back to ambient temperature and aqueous hydrochloric acid (1 M, 27.5 ml) added causing precipitation of a solid. This was collected by filtration, washed with water (2×25 ml) then dried in a vacuum oven at 50° C. overnight to leave (2-methyl-4-nitro-1H-indol-1-yl)acetic acid as a yellow solid, 4.18 g (94%).

reactant | sodium hydroxide | 1 M, 25 ml | [OH-].[Na+]
reactant | (4-nitro-2-methyl-1H-indol-1-yl)acetic acid, ethyl ester | 18.9 mmol, 5.0 g | [N+](=O)([O-])C1=C2C=C(N(C2=CC=C1)CC(=O)OCC)C | C13H14N2O4
reactant | hydrochloric acid | 1 M, 27.5 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (2-methyl-4-nitro-1H-indol-1-yl)acetic acid | CC=1N(C2=CC=CC(=C2C1)[N+](=O)[O-])CC(=O)O | C11H10N2O4
